US07943550B2
Step 1: 3-allylamino-2-methyl-4-(methylsulfonyl)benzoic acid
4.0 g (17 mmol) of 3-fluoro-2-methyl-4-(methylsulfonyl)benzoic acid were dissolved in 12.9 ml (172 mmol) of allylamine. The mixture was heated at reflux for 5 days and allowed to stand for 2 days. 10 ml (134 mmol) of allylamine and 15 ml of water were added, and the mixture was heated at reflux for 14 days, cooled to RT, added to ice, acidified with 10% strength sulfuric acid and extracted twice with ethyl acetate. The combined organic phases were dried over MgSO4, and the solvent was removed under reduced pressure. The residue was crystallized from diethyl ether. This gave 4.2 g of a yellow solid of a purity of 88%.

reactant | 3-fluoro-2-methyl-4-(methylsulfonyl)benzoic acid | 17 mmol, 4.0 g | FC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C9H9FO4S
reactant | allylamine | 172 mmol, 12.9 ml | C(C=C)N | C3H7N
reactant | allylamine | 134 mmol, 10 ml | C(C=C)N | C3H7N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 15 ml | O | H2O
product | 3-allylamino-2-methyl-4-(methylsulfonyl)benzoic acid | C(C=C)NC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C12H15NO4S
